US07553854B2
To the solution of tert-butyl 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinate (250 mg, 0566 mmol) in 10 ml of acetonitrile was added 6 M of hydrochloric acid (1 ml, 6 mmol). The reaction solution was stirred at room temperature for 1 hour and then at 60° C. for 2 hours. The crude reaction solution was concentrated and re-dissolved with 10 ml of acetonitrile. The resulting solution was evaporated in vacuo to give light brown oily product 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinic acid (215 mg, 0.56 mmol). ES/MS m/z 386.5 (MH+).

reactant | tert-butyl 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinate | 250 mg | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)OC(C)(C)C | C23H27N3O4S
reactant | hydrochloric acid | 6 mmol, 6 M, 1 ml | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinic acid | 0.56 mmol, 215 mg | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)O | C19H19N3O4S
